US06897231B2
B. 1-({3-[3-(4-Fluorophenyl)-1H-indazol-5-yl]-1H-1,2,4-triazol-5-yl}methyl)pyrrolidine-2-one
A suspension of ethoxy[3-(4-fluorophenyl)(1H-indazol-5-yl)]methanimine hydrochloride (0.300 g, 0.94 mmol) and N-amino-2-(2-oxopyrrolidinyl)acetamide (0.442 g, 2.81 mmol) in 4 mL of anhydrous methanol was prepared. An excess of a commercial solution of sodium methoxide in methanol (0.643 mL, 4.37 M) was added. Upon adding the basic solution, the reaction mixture became clear then cloudy. After an hour, the temperature was raised to reflux temperature and was maintained for 48 hours. The reaction was then quenched with water, the pH adjusted to neutral and the crude product extracted with ethyl acetate. The title compound was purified by preparative HPLC (0.118 g, 34% yield): 1H NMR (CD3OD) δ 8.68 (s, 1H), 8.07-8.02 (m, 3H), 7.68 (d, 1H), 7.29 (t, 2H), 4.66 (s, 2H), 3.53 (t, 2H), 2.47 (t, 2H), 2.10 (quintet, 2H); ES-MS (m/z) 377 [M+H]+.

reactant | ethoxy[3-(4-fluorophenyl)(1H-indazol-5-yl)]methanimine hydrochloride | 0.94 mmol, 0.300 g | Cl.C(C)OC(=N)C=1C=C2C(=NNC2=CC1)C1=CC=C(C=C1)F
reactant | N-amino-2-(2-oxopyrrolidinyl)acetamide | 2.81 mmol, 0.442 g | NNC(CN1C(CCC1)=O)=O | C6H11N3O2
reactant | sodium methoxide | C[O-].[Na+]
solvent | methanol | 4 mL | CO | CH4O
solvent | methanol | 4.37 M, 0.643 mL | CO | CH4O
product | 1-({3-[3-(4-Fluorophenyl)-1H-indazol-5-yl]-1H-1,2,4-triazol-5-yl}methyl)pyrrolidine-2-one | 34% yield | FC1=CC=C(C=C1)C1=NNC2=CC=C(C=C12)C1=NNC(=N1)CN1C(CCC1)=O | C20H17FN6O
